US04874756
3,3-Dimethyl-6-(2-thienyl)-benzo[1,2-b:5,4-b']-dipyrrol-2-(1H, 3H, 7H)-one
Analogously to Example 1, 6.8 g. (38 mmole) 6-amino-3,3-dimethylindolin-2-one are diazotised and reduced. Into the solution are added dropwise 10.9 g. (85 mmole) 2-acetylthiophene and the oil which separates out is taken up in methylene chloride, dried and evaporated. As crude product, there are obtained 11.2 g. 2-acetylthiophene-(3,3-dimethyl-2-oxoindoline-6-hydrazone) which is further reacted without purification.

reactant | 6-amino-3,3-dimethylindolin-2-one | 38 mmole | NC1=CC=C2C(C(NC2=C1)=O)(C)C | C10H12N2O
reactant | 2-acetylthiophene | 85 mmole | C(C)(=O)C=1SC=CC1 | C6H6OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3,3-Dimethyl-6-(2-thienyl)-benzo[1,2-b:5,4-b']-dipyrrol-2-(1H, 3H, 7H)-one | CC1(C2=C(NC1=O)C=C1NC(=CC1=C2)C=2SC=CC2)C | C16H14N2OS
